US08044052B2
tert-Butyl 4-(3-(5-ethoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.6 g, 1.56 mmol) in acetone (5 mL) was added ethyl iodide (0.304 g, 1.96 mmol), K2CO3 (0.431 g, 3.12 mmol) and 18-crown-6 (0.824 g, 3.12 mmol) at 0° C. The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate three times. The organic layer was washed with fresh water and brine solution, dried over Na2SO4 and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (1:19 acetone:hexanes) to give the title compound (610 mg, 95%). 1H NMR (500 MHz, CDCl3): δ 7.86 (d, J=2.5 Hz, 1H), 7.27 (m, 2H), 6.96 (d, J=7.5 Hz, 1H), 6.90 (m, 2H), 6.85 (d, J=9 Hz, 1H), 6.32 (s, 1H), 4.02 (q, 2H, J=6.8), 3.49 (s, 2H), 3.38 (s, 2H), 2.45 (s, 2H), 2.30 (s, 2H), 1.47 (s 9H) 1.40 (t, J=6.92 Hz, 3H); m/z (411.51, M+ H+).

reactant | tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 1.56 mmol, 0.6 g | OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H26N2O4
reactant | ethyl iodide | 1.96 mmol, 0.304 g | C(C)I | C2H5I
reactant | K2CO3 | 3.12 mmol, 0.431 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 3.12 mmol, 0.824 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | tert-Butyl 4-(3-(5-ethoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 610 mg, 95% | C(C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C24H30N2O4
